US08389508B2
To a solution of methyl 3-cyano-4-(2-methylpropyl)benzoate (D23) (800 mg) in methanol (30 mL) and water (5 mL) at room temperature was added LiOH (441 mg). Then the reaction mixture was stirred at 25° C. for 4 h. Methanol was removed under reduced pressure and water (30 mL) was added. 2N HCl was added to the solution until pH=5. After filtration, the solid was dried to give 3-cyano-4-(2-methylpropyl)benzoic acid (D24) (735 mg) as a white solid. MS (ES): C12H13NO2 requires 203. found 204.1 (M+H+).

reactant | methyl 3-cyano-4-(2-methylpropyl)benzoate | 800 mg | C(#N)C=1C=C(C(=O)OC)C=CC1CC(C)C | C13H15NO2
reactant | LiOH | 441 mg | [Li+].[OH-]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 3-cyano-4-(2-methylpropyl)benzoic acid | 735 mg | C(#N)C=1C=C(C(=O)O)C=CC1CC(C)C | C12H13NO2
